### PR TITLE
Add finset lemmas

### PR DESCRIPTION
**Pull request by ana-borges**
##### Motivation for this change

Add some lemmas I had lying around for finmap sets, adapted to finset sets.

##### Minimal TODO list

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- ~~[ ] added corresponding documentation in the headers~~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Compatibility with MathComp 1.X

- [ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: mathcomp/ssreflect/finset.v [hunk 1]
```diff
@@ -991,6 +991,42 @@ Proof. by rewrite -properC setCK. Qed.
...
+Lemma has_setU pA A B :
+  has pA (enum (A :|: B)) = (has pA (enum A)) || (has pA (enum B)).
+Proof.
+apply/hasP/orP.
+  move=> [x /[!mem_enum] /[!in_setU] /orP [xinA|xinB] pAx].
+    by left; apply/hasP; exists x; first by rewrite mem_enum.
+  by right; apply/hasP; exists x; first by rewrite mem_enum.
+move=> [/hasP [x /[!mem_enum] xin pAx]|/hasP [x /[!mem_enum] xin pAx]].
+  by exists x => //; rewrite mem_enum in_setU xin.
+by exists x => //; rewrite mem_enum in_setU xin orbT.
```
Comment (proux01) [inline mathcomp/ssreflect/finset.v:1009]:
```suggestion
by rewrite -has_cat; apply/hasP/hasP => -[x + pAx] /ltac:(exists x) //;
   rewrite mem_cat !mem_enum in_setU.
```

File: mathcomp/ssreflect/finset.v [hunk 2]
```diff
@@ -991,6 +991,42 @@ Proof. by rewrite -properC setCK. Qed.
...
+Qed.
+
+Lemma all_set1 pA A a :
+  all pA (enum [set a]) = pA a.
```
Comment (proux01) [inline mathcomp/ssreflect/finset.v:1013]:
```suggestion
Lemma all_set1 pA A a : all pA (enum [set a]) = pA a.
```
(more nitpicking)

**Review by proux01 — COMMENTED** [review]
Nitpicking and code golfing.

File: mathcomp/ssreflect/finset.v [hunk 3]
```diff
@@ -1500,6 +1522,29 @@ Lemma big_setU1 a A F : a \notin A ->
...
 
+Lemma big_subset_idem A B F :
+    idempotent aop ->
+    A \subset B ->
+  aop (\big[aop/idx]_(i in A) F i) (\big[aop/idx]_(i in B) F i)
+    = \big[aop/idx]_(i in B) F i.
+Proof.
+  move=> idemaop /setIidPr <-.
+  rewrite [\big[_/_]_(_ in B) _](big_setID _ A).
+  by rewrite Monoid.mulmA /= idemaop.
```
Comment (proux01) [inline mathcomp/ssreflect/finset.v:1533]:
```suggestion
move=> idemaop /setIidPr <-.
rewrite [\big[_/_]_(_ in B) _](big_setID _ A).
by rewrite Monoid.mulmA /= idemaop.
```
might also fit in two lines? maybe the pattern could be shortened (like [X in ...])

File: mathcomp/ssreflect/finset.v [hunk 4]
```diff
@@ -1500,6 +1522,29 @@ Lemma big_setU1 a A F : a \notin A ->
...
+Lemma big_setU (A B : {set I}) F :
+    idempotent aop ->
+  \big[aop/idx]_(i in A :|: B) F i
+    = aop (\big[aop/idx]_(i in A) F i) (\big[aop/idx]_(i in B) F i).
+Proof.
+  move=> idemaop.
+  rewrite (big_setID _ A) setUK setDUl setDv set0U.
+  rewrite [\big[_/_]_(_ in B) _](big_setID _ A).
+  rewrite Monoid.mulmCA Monoid.mulmA /=.
+  by rewrite (@big_subset_idem (B :&: A)) // subsetIr.
```
Comment (proux01) [inline mathcomp/ssreflect/finset.v:1545]: indentation, maybe the pattern can be shortened in `[X in aop _ X]`

**Review by proux01 — COMMENTED** [review]
Nitpicking but looks good to me. Just need to add the new lemmas in CHANGELOG_UNRELEASED.md

**Review by proux01 — APPROVED** [review]
Will squash and merge once CI is happy.

**Comment by ana-borges** [comment]
Perhaps the bigop lemmas could be extended to conditional versions.

**Comment by ana-borges** [comment]
I can do it here, just let me finish something else I started in the meantime
